US06737426B1
Preparation of (4-phenylsulfonyl-2-pyridin-3-yl-oxazol-5-yl)methylamine
N-(1-Phenylsulfonyl-2,2-dichlorovinyl)nicotinamide (0.4 g, 1.120 mmol) is dissolved in tetrahydrofuran, mixed with methylamine (2.607 ml, 2M in tetrahydrofuran, 4.480 mmol) and stirred overnight at room temperature. The resulting precipitate was filtered off with suction and discarded, the mother liquor was concentrated in a rotary evaporator and the residue was crystallized using a small amount of isopropanol, filtered off with suction and dried in air.

reactant | N-(1-Phenylsulfonyl-2,2-dichlorovinyl)nicotinamide | 1.120 mmol, 0.4 g | C1(=CC=CC=C1)S(=O)(=O)C(=C(Cl)Cl)NC(C1=CN=CC=C1)=O | C14H10Cl2N2O3S
reactant | methylamine | 4.480 mmol, 2M, 2.607 ml | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4-phenylsulfonyl-2-pyridin-3-yl-oxazol-5-yl)methylamine | C1(=CC=CC=C1)S(=O)(=O)C=1N=C(OC1CN)C=1C=NC=CC1 | C15H13N3O3S
